US05532236
8-(4-Phenyl-1H-imidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4-(2H,5H)-dione
The title compound was prepared from 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione and 4-phenylimidazole by a method analogous to the method described in example 11. M.p. 365° C. (decomp.).

reactant | 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | FC1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C9H4FN5O4
reactant | 4-phenylimidazole | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
product | 8-(4-Phenyl-1H-imidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4-(2H,5H)-dione | C1(=CC=CC=C1)C=1N=CN(C1)C1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C18H11N7O4
